US08012966B2
A stirred solution of 4-oxo-3-phenyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde (36 mg, 0.15 mmol), 5-bromo-1,3-dihydro-indol-2-one (33 mg, 0.146 mmol), piperidine (0.05 ml), N,N-dimethylformamide (0.05 ml) in anhydrous ethanol (0.75 ml) was heated to reflux for 2 hours and stirred at room temperature overnight. The resulting mixture was filtered to give (5-bromo-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-phenyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one (61 mg, 88%) as a yellow solid.

reactant | 4-oxo-3-phenyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | 0.15 mmol, 36 mg | O=C1NCCC2=C1C(=C(N2)C=O)C2=CC=CC=C2 | C14H12N2O2
reactant | 5-bromo-1,3-dihydro-indol-2-one | 0.146 mmol, 33 mg | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | piperidine | 0.05 ml | N1CCCCC1 | C5H11N
reactant | N,N-dimethylformamide | 0.05 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 0.75 ml | C(C)O | C2H6O
product | (5-bromo-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-phenyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 61 mg, 88% | BrC=1C=C2C(C(NC2=CC1)=O)=CN1C=C(C=2C(NCCC21)=O)C2=CC=CC=C2 | C22H16BrN3O2
